* c:\fossee\esim\library\subcircuitlibrary\3bit_dac\3bit_dac.cir

.include 2bit_DAC.sub
.include switch.sub
x1 /vrefh net-_x1-pad2_ /d0 /d1 /vdd net-_x1-pad6_ 2bit_DAC
x2 net-_x1-pad2_ /vrefl /d0 /d1 /vdd net-_x2-pad6_ 2bit_DAC
x3 /d2 /vdd net-_x1-pad6_ net-_x2-pad6_ /vout switch
* u1  /vrefh /vrefl /d0 /d1 /d2 /vdd /vout port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
